US07897607B2
Ethyl 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylate
To 5.0 g (21 mmol) of ethyl 1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylate in 40 mL of DMF was added 7.3 g (41 mmol) of N-bromosuccinimide and the resulting solution was heated to 75° C. for 75 min. The reaction was cooled to room temperature, diluted with 400 mL of water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over sodium sulfate, filtered and the resulting filtrate was concentrated to an oil. The oil was purified by flash chromatography eluting with a 17-20% ethyl acetate/hexanes gradient mixture to give 1.89 g (29%) of the title compound as a light yellow solid.

reactant | ethyl 1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylate | 21 mmol, 5.0 g | CC1=C(C=CC(=C1)C)N1C=NC=C1C(=O)OCC | C14H16N2O2
reactant | N-bromosuccinimide | 41 mmol, 7.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | Ethyl 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carboxylate | 1.89 g, 29% | BrC=1N=CN(C1C(=O)OCC)C1=C(C=C(C=C1)C)C | C14H15BrN2O2
